* Extracted by KLayout with SG13G2 LVS runset on : 20/03/2026 21:44

.SUBCKT chip_top VGND ua[5] ua[4] ua[3] ua[2] ua[1] ua[0] VDPWR uio_in[1]
+ uio_in[0] ui_in[1] ui_in[0] uo_out[0] uo_out[1] uo_out[2] ui_in[2] ui_in[3]
+ uo_out[3] ui_in[4] uo_out[7] ui_in[7] ui_in[6] uo_out[6] uo_out[5] uo_out[4]
+ ui_in[5] uio_out[6] uio_out[7] uio_out[5] uio_in[2] uio_in[3] uio_in[4]
+ uio_oe[4] uio_oe[3] uio_oe[0] uio_out[3] uio_out[4] uio_out[0] uio_out[2]
+ uio_oe[5] uio_oe[1] uio_oe[7] uio_oe[6] uio_oe[2] uio_out[1]
X$172 VGND ua[2] uo_out[0] ua[1] \$24 VDPWR \$25 ua[3] ua[5] ua[4] ui_in[0]
+ neuron_row
X$173 VGND ua[2] uo_out[1] ua[1] \$I492 VDPWR \$I520 ua[3] ua[5] ua[4] ui_in[1]
+ neuron_row
X$174 VGND ua[2] uo_out[2] ua[1] \$I483 VDPWR \$I511 ua[3] ua[5] ua[4] ui_in[2]
+ neuron_row
X$175 VGND ua[2] uo_out[3] ua[1] \$I491 VDPWR \$I519 ua[3] ua[5] ua[4] ui_in[3]
+ neuron_row
X$176 VGND ua[2] uo_out[4] ua[1] \$I484 VDPWR \$I512 ua[3] ua[5] ua[4] ui_in[4]
+ neuron_row
X$177 VGND ua[2] uo_out[5] ua[1] \$I490 VDPWR \$I518 ua[3] ua[5] ua[4] ui_in[5]
+ neuron_row
X$178 VGND ua[2] uo_out[6] ua[1] \$I485 VDPWR \$I513 ua[3] ua[5] ua[4] ui_in[6]
+ neuron_row
X$179 VGND ua[2] uo_out[7] ua[1] \$I489 VDPWR \$I517 ua[3] ua[5] ua[4] ui_in[7]
+ neuron_row
X$180 VGND ua[2] uio_out[5] ua[1] \$I486 VDPWR \$I514 ua[3] ua[5] ua[4]
+ uio_in[2] neuron_row
X$181 VGND ua[2] uio_out[6] ua[1] \$I488 VDPWR \$I516 ua[3] ua[5] ua[4]
+ uio_in[3] neuron_row
X$182 VGND ua[2] uio_out[7] ua[1] \$I487 VDPWR \$I515 ua[3] ua[5] ua[4]
+ uio_in[4] neuron_row
X$215 VGND \$11 \$24 ua[4] VDPWR analog_buffer
X$216 VGND \$20 \$25 ua[4] VDPWR analog_buffer
M$1 ua[0] uio_in[0] \$11 VGND sg13_lv_nmos L=0.15u W=8u AS=2.24p AD=2.24p
+ PS=13.48u PD=13.48u
M$9 VGND VGND VGND VGND sg13_lv_nmos L=0.15u W=8u AS=3.92p AD=3.92p PS=23.84u
+ PD=23.84u
M$10 ua[0] uio_in[1] \$20 VGND sg13_lv_nmos L=0.15u W=8u AS=2.24p AD=2.24p
+ PS=13.48u PD=13.48u
M$21 VGND uio_in[1] \$I594 VGND sg13_lv_nmos L=0.15u W=1u AS=0.49p AD=0.49p
+ PS=2.98u PD=2.98u
M$26 VGND uio_in[0] \$I595 VGND sg13_lv_nmos L=0.15u W=1u AS=0.49p AD=0.49p
+ PS=2.98u PD=2.98u
M$27 VDPWR VDPWR VDPWR VDPWR sg13_lv_pmos L=0.15u W=8u AS=3.92p AD=3.92p
+ PS=23.84u PD=23.84u
M$28 ua[0] \$I595 \$11 VDPWR sg13_lv_pmos L=0.15u W=8u AS=2.24p AD=2.24p
+ PS=13.48u PD=13.48u
M$36 VDPWR uio_in[1] \$I594 VDPWR sg13_lv_pmos L=0.15u W=1u AS=0.49p AD=0.49p
+ PS=2.98u PD=2.98u
M$37 ua[0] \$I594 \$20 VDPWR sg13_lv_pmos L=0.15u W=8u AS=2.24p AD=2.24p
+ PS=13.48u PD=13.48u
M$49 VDPWR uio_in[0] \$I595 VDPWR sg13_lv_pmos L=0.15u W=1u AS=0.49p AD=0.49p
+ PS=2.98u PD=2.98u
M$53 VGND \$I598 \$I597 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$54 VGND \$I596 uio_oe[4] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$55 VDPWR \$I598 \$I598 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$56 VDPWR \$I597 \$I596 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$57 VGND \$I601 \$I600 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$58 VGND \$I599 uio_oe[3] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$59 VDPWR \$I601 \$I601 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$60 VDPWR \$I600 \$I599 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$61 VGND \$I604 \$I603 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$62 VGND \$I602 uio_oe[2] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$63 VDPWR \$I604 \$I604 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$64 VDPWR \$I603 \$I602 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$65 VGND \$I607 \$I606 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$66 VGND \$I605 uio_oe[1] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$67 VDPWR \$I607 \$I607 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$68 VDPWR \$I606 \$I605 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$69 VGND \$I610 \$I609 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$70 VGND \$I608 uio_oe[0] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$71 VDPWR \$I610 \$I610 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$72 VDPWR \$I609 \$I608 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$73 VGND \$I613 \$I612 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$74 VGND \$I611 uio_out[4] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$75 VDPWR \$I613 \$I613 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$76 VDPWR \$I612 \$I611 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$77 VGND \$I616 \$I615 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$78 VGND \$I614 uio_out[3] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$79 VDPWR \$I616 \$I616 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$80 VDPWR \$I615 \$I614 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$81 VGND \$I619 \$I618 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$82 VGND \$I617 uio_out[2] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$83 VDPWR \$I619 \$I619 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$84 VDPWR \$I618 \$I617 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$85 VGND \$I622 \$I621 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$86 VGND \$I620 uio_out[1] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$87 VDPWR \$I622 \$I622 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$88 VDPWR \$I621 \$I620 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$89 VGND \$I625 \$I624 VGND sg13_lv_nmos L=0.13u W=0.385u AS=0.305425p
+ AD=0.1309p PS=2.07u PD=1.45u
M$90 VGND \$I623 uio_out[0] VGND sg13_lv_nmos L=0.13u W=0.88u AS=0.305425p
+ AD=0.2992p PS=2.07u PD=2.44u
M$91 VDPWR \$I625 \$I625 VDPWR sg13_lv_pmos L=0.13u W=0.3u AS=0.326925p
+ AD=0.102p PS=2.255u PD=1.28u
M$92 VDPWR \$I624 \$I623 VDPWR sg13_lv_pmos L=0.13u W=1.045u AS=0.326925p
+ AD=0.3553p PS=2.255u PD=2.77u
M$93 VGND \$I628 \$I628 VGND sg13_lv_nmos L=0.13u W=0.3u AS=0.2043375p
+ AD=0.111p PS=1.585u PD=1.34u
M$94 VGND \$I627 \$I626 VGND sg13_lv_nmos L=0.13u W=0.795u AS=0.2043375p
+ AD=0.274275p PS=1.585u PD=2.28u
M$95 \$I627 \$I628 VDPWR VDPWR sg13_lv_pmos L=0.13u W=0.66u AS=0.2442p
+ AD=0.4657125p PS=2.06u PD=2.54u
M$96 VDPWR \$I626 uio_oe[7] VDPWR sg13_lv_pmos L=0.13u W=1.155u AS=0.4657125p
+ AD=0.3927p PS=2.54u PD=2.99u
M$97 VGND \$I631 \$I631 VGND sg13_lv_nmos L=0.13u W=0.3u AS=0.2043375p
+ AD=0.111p PS=1.585u PD=1.34u
M$98 VGND \$I630 \$I629 VGND sg13_lv_nmos L=0.13u W=0.795u AS=0.2043375p
+ AD=0.274275p PS=1.585u PD=2.28u
M$99 \$I630 \$I631 VDPWR VDPWR sg13_lv_pmos L=0.13u W=0.66u AS=0.2442p
+ AD=0.4657125p PS=2.06u PD=2.54u
M$100 VDPWR \$I629 uio_oe[6] VDPWR sg13_lv_pmos L=0.13u W=1.155u AS=0.4657125p
+ AD=0.3927p PS=2.54u PD=2.99u
M$101 VGND \$I634 \$I634 VGND sg13_lv_nmos L=0.13u W=0.3u AS=0.2043375p
+ AD=0.111p PS=1.585u PD=1.34u
M$102 VGND \$I633 \$I632 VGND sg13_lv_nmos L=0.13u W=0.795u AS=0.2043375p
+ AD=0.274275p PS=1.585u PD=2.28u
M$103 \$I633 \$I634 VDPWR VDPWR sg13_lv_pmos L=0.13u W=0.66u AS=0.2442p
+ AD=0.4657125p PS=2.06u PD=2.54u
M$104 VDPWR \$I632 uio_oe[5] VDPWR sg13_lv_pmos L=0.13u W=1.155u AS=0.4657125p
+ AD=0.3927p PS=2.54u PD=2.99u
C$105 VGND VDPWR cap_cmim w=30u l=34u A=1020p P=128u m=1
C$106 VGND ua[2] cap_cmim w=75u l=75u A=5625p P=300u m=1
C$107 VGND VDPWR cap_cmim w=75u l=75u A=5625p P=300u m=5
C$109 VGND ua[4] cap_cmim w=75u l=75u A=5625p P=300u m=1
C$112 VGND ua[3] cap_cmim w=75u l=75u A=5625p P=300u m=1
C$114 VGND ua[1] cap_cmim w=75u l=75u A=5625p P=300u m=1
C$115 VGND VDPWR cap_cmim w=30u l=75u A=2250p P=210u m=3
C$118 VGND VDPWR cap_cmim w=75u l=34u A=2550p P=218u m=3
.ENDS chip_top

.SUBCKT analog_buffer GND out inp_cm Vbias VDD
M$1 GND GND GND GND sg13_hv_nmos L=1u W=16u AS=3.64p AD=3.64p PS=23.64u
+ PD=23.64u
M$3 GND Vm Vm GND sg13_hv_nmos L=1u W=16u AS=3.04p AD=3.04p PS=19.04u PD=19.04u
M$5 GND Vm out GND sg13_hv_nmos L=1u W=16u AS=3.04p AD=3.04p PS=19.04u PD=19.04u
M$25 Vb Vb Vb VDD sg13_hv_pmos L=1u W=16u AS=3.64p AD=3.64p PS=23.64u PD=23.64u
M$27 Vb out out VDD sg13_hv_pmos L=1u W=16u AS=3.04p AD=3.04p PS=19.04u
+ PD=19.04u
M$29 Vb inp_cm Vm VDD sg13_hv_pmos L=1u W=16u AS=3.04p AD=3.04p PS=19.04u
+ PD=19.04u
M$49 VDD VDD VDD VDD sg13_hv_pmos L=1u W=80u AS=18.2p AD=18.2p PS=118.2u
+ PD=118.2u
M$51 VDD Vbias Vb VDD sg13_hv_pmos L=1u W=160u AS=30.4p AD=30.4p PS=190.4u
+ PD=190.4u
.ENDS analog_buffer

.SUBCKT neuron_row GND|VSS V_lk REQ|out v_ref V_mem|v_mem VDD Vrefcap inn_cm
+ inp_cm Vbias ACK
M$1 GND|VSS GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=3u W=20u AS=5.3p AD=5.3p
+ PS=38.48u PD=38.48u
M$2 GND|VSS GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=4u W=8u AS=1.52p AD=1.52p
+ PS=14.08u PD=14.08u
M$13 GND|VSS GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=1u W=16u AS=3.64p AD=3.64p
+ PS=23.64u PD=23.64u
M$15 GND|VSS Vm I_in|out GND|VSS sg13_hv_nmos L=1u W=16u AS=3.04p AD=3.04p
+ PS=19.04u PD=19.04u
M$17 GND|VSS Vm Vm GND|VSS sg13_hv_nmos L=1u W=16u AS=3.04p AD=3.04p PS=19.04u
+ PD=19.04u
M$25 GND|VSS GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=2u W=14u AS=3.26p AD=2.96p
+ PS=24.52u PD=21.92u
M$44 GND|VSS V_lk V_mem|v_mem GND|VSS sg13_hv_nmos L=4u W=16u AS=3.04p AD=3.04p
+ PS=19.04u PD=19.04u
M$50 GND|VSS V_mem|v_mem \$20 GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u
M$51 \$20 V_mem|v_mem \$21 GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u
M$52 \$21 V_mem|v_mem \$22 GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p AD=0.38p
+ PS=2.76u PD=2.76u
M$53 \$22 V_mem|v_mem Vfb|in|out GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p
+ AD=0.38p PS=2.76u PD=2.76u
M$54 Vfb|in|out GND|VSS GND|VSS GND|VSS sg13_hv_nmos L=2u W=2u AS=0.38p
+ AD=0.68p PS=2.76u PD=5.36u
M$55 GND|VSS Vfb|in|out in|out GND|VSS sg13_hv_nmos L=0.5u W=4u AS=1.36p
+ AD=1.36p PS=8.68u PD=8.68u
M$56 GND|VSS in|out REQ|out GND|VSS sg13_hv_nmos L=0.5u W=4u AS=1.36p AD=1.36p
+ PS=8.68u PD=8.68u
M$58 GND|VSS v_ref \$24 GND|VSS sg13_hv_nmos L=4u W=16u AS=3.04p AD=3.04p
+ PS=19.04u PD=19.04u
M$99 GND|VSS Vrefcap V_mem|v_mem GND|VSS sg13_hv_nmos L=0.5u W=1u AS=0.34p
+ AD=0.34p PS=2.68u PD=2.68u
M$100 \$24 REQ|out Vrefcap GND|VSS sg13_hv_nmos L=0.5u W=1u AS=0.34p AD=0.34p
+ PS=2.68u PD=2.68u
M$101 Vb Vb Vb VDD sg13_hv_pmos L=1u W=16u AS=3.64p AD=3.64p PS=23.64u PD=23.64u
M$103 Vb inn_cm I_in|out VDD sg13_hv_pmos L=1u W=16u AS=3.04p AD=3.04p
+ PS=19.04u PD=19.04u
M$105 Vb inp_cm Vm VDD sg13_hv_pmos L=1u W=16u AS=3.04p AD=3.04p PS=19.04u
+ PD=19.04u
M$113 VDD VDD VDD VDD sg13_hv_pmos L=2u W=25u AS=5.35p AD=5.5p PS=43.8u PD=45.1u
M$141 VDD VDD I_in|out VDD sg13_hv_pmos L=2u W=8u AS=2.12p AD=2.12p PS=16.24u
+ PD=16.24u
M$142 I_in|out V_lk GND|VSS VDD sg13_hv_pmos L=2u W=16u AS=3.04p AD=3.04p
+ PS=22.08u PD=22.08u
M$144 I_in|out V_mem|v_mem V_mem|v_mem VDD sg13_hv_pmos L=2u W=16u AS=3.04p
+ AD=3.04p PS=22.08u PD=22.08u
M$161 VDD VDD Vfb|in|out VDD sg13_hv_pmos L=2u W=2u AS=0.53p AD=0.53p PS=4.06u
+ PD=4.06u
M$162 Vfb|in|out V_mem|v_mem \$100 VDD sg13_hv_pmos L=2u W=4u AS=0.76p AD=0.76p
+ PS=5.52u PD=5.52u
M$167 VDD VDD VDD VDD sg13_hv_pmos L=1u W=14u AS=3.185p AD=3.185p PS=21.14u
+ PD=21.14u
M$169 VDD Vbias I_in|out VDD sg13_hv_pmos L=1u W=12u AS=2.505p AD=2.505p
+ PS=16.84u PD=16.84u
M$173 VDD Vbias Vb VDD sg13_hv_pmos L=1u W=16u AS=3.34p AD=3.34p PS=21.34u
+ PD=21.34u
M$190 VDD \$100 \$100 VDD sg13_hv_pmos L=2u W=4u AS=0.76p AD=0.76p PS=5.52u
+ PD=5.52u
M$195 VDD Vfb|in|out in|out VDD sg13_hv_pmos L=0.5u W=4u AS=1.36p AD=1.36p
+ PS=8.68u PD=8.68u
M$196 VDD in|out REQ|out VDD sg13_hv_pmos L=0.5u W=4u AS=1.36p AD=1.36p
+ PS=8.68u PD=8.68u
M$219 VDD VDD V_mem|v_mem VDD sg13_hv_pmos L=2u W=1u AS=0.34p AD=0.19p PS=2.68u
+ PD=1.38u
M$220 V_mem|v_mem \$100 \$129 VDD sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p
+ PS=1.38u PD=1.38u
M$221 \$129 \$100 \$130 VDD sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p PS=1.38u
+ PD=1.38u
M$222 \$130 \$100 \$131 VDD sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p PS=1.38u
+ PD=1.38u
M$223 \$131 \$100 VDD VDD sg13_hv_pmos L=2u W=1u AS=0.19p AD=0.19p PS=1.38u
+ PD=1.38u
M$231 Vrefcap REQ|out \$114 VDD sg13_hv_pmos L=0.5u W=1u AS=0.34p AD=0.19p
+ PS=2.68u PD=1.38u
M$232 \$114 ACK VDD VDD sg13_hv_pmos L=0.5u W=1u AS=0.19p AD=0.34p PS=1.38u
+ PD=2.68u
C$243 GND|VSS Vrefcap cap_cmim w=22.1u l=15u A=331.5p P=74.2u m=1
C$244 GND|VSS V_mem|v_mem cap_cmim w=44.4u l=15u A=666p P=118.8u m=1
.ENDS neuron_row
